US07622583B2
Methylisocyanate (17 μL, 0.235 mmol) was added to N-[2-(5-amino-2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzene sulfonamide (59 mg, 0.117 mmol) in THF (2 mL) and AcOH (0.5 mL) and stirred at room temperature for 4 h. The reaction mixture was directly purified by preparative HPLC (20-80% acetonitrile in water) to afford 4-chloro-N-{2-[2-chloro-5-(3-methyl-ureido)-benzoyl]-5-methyl-pyridin-3-yl}-3-trifluoromethyl-benzene sulfonamide (25 mg) in 38% yield. 1H NMR (400 MHz, CDCl3+CD3OD) δ 8.14 (m, 2H), 7.95 (m, 2H), 7.63 (d, 1 H), 7.58 (dd, 1 H), 7.41 (dd, 1 H), 7.19 (d, 1 H), 2.76 (s, 3H), 2.42 (s, 3H); ESMS m/z (relative intensity): 561 (M+H)+ (100).

reactant | Methylisocyanate | 0.235 mmol, 17 μL | CN=C=O | C2H3NO
reactant | N-[2-(5-amino-2-chloro-benzoyl)-5-methyl-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzene sulfonamide | 0.117 mmol, 59 mg | NC=1C=CC(=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)C)C1)Cl | C20H14Cl2F3N3O3S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
product | 4-chloro-N-{2-[2-chloro-5-(3-methyl-ureido)-benzoyl]-5-methyl-pyridin-3-yl}-3-trifluoromethyl-benzene sulfonamide | 25 mg, 38% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(C1=C(C=CC(=C1)NC(=O)NC)Cl)=O)C(F)(F)F | C22H17Cl2F3N4O4S
